US07687496B2
1. Synthesis of 3,3-dimethoxypropyl dimethylvinylsilane
To a stirring magnesium granules (365 mg) in anhydrous tetrahydrofuran (15 mL), few drops of dibromoethane (˜50 μL) was added at room temperature under argon and the resultant mixture was stirred for 10 min. The reaction mixture was cooled to 10° C. and 3-bromopropionaldehyde dimethyl acetal (2.2 g) was introduced dropwise during 10 min. and allowed to stir at room temperature for 2 hours. After the completion of the Grignard formation, the reaction mixture was cooled to 0° C. and chlorodimethylvinylsilane (1.2 g) was added dropwise and the reaction mixture was stirred overnight at room temperature. The reaction mixture was quenched with water (20 mL) at 0° C. and the organics were extracted with t-butyl methyl ether (2×20 mL). The combined organic layers were dried and concentrated under reduced pressure to obtain the crude product. The pure product was obtained upon vacuum distillation of the crude material at 100° C. (2 mm Hg) in 80% yield (1.5 g).

reactant | magnesium | [Mg] | Mg
reactant | dibromoethane | ˜50 μL | BrC(C)Br | C2H4Br2
reactant | 3-bromopropionaldehyde dimethyl acetal | 2.2 g | COC(CCBr)OC | C5H11BrO2
reactant | chlorodimethylvinylsilane | 1.2 g | Cl[SiH2]C=C(C)C | C4H9ClSi
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3,3-dimethoxypropyl dimethylvinylsilane | 80% yield | COC(CC[SiH2]C=C(C)C)OC | C9H20O2Si
